US04211791
4-(3-Phenoxypropoxy)phthalic anhydride
4-(3-phenoxypropoxy)phthalic acid (41 g; 0.134 mole) was refluxed for 30 minutes with excess acetic anhydride and the product evaporated to dryness in vacuo. Recrystallisation of the resulting white solid from ethyl acetate afforded material of m.p. 96°-98°. (Found; C, 68.48; H, 4.75; C17H14O5 requires; C, 68.45; H, 4.73%).

reactant | 4-(3-phenoxypropoxy)phthalic acid | 0.134 mole, 41 g | O(C1=CC=CC=C1)CCCOC=1C=C(C(C(=O)O)=CC1)C(=O)O | C17H16O6
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 4-(3-Phenoxypropoxy)phthalic anhydride | O(C1=CC=CC=C1)CCCOC=1C=C2C(C(=O)OC2=O)=CC1 | C17H14O5
